US04418199
27.6 g of toluene-p-sulphonic acid monohydrate are added to a solution of 27.62 g (0.138 mol) of 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride in 300 ml of toluene, followed by 8.69 g of ethylenediamine. The mixture is heated to 60° C. for 30 minutes and then refluxed for 30 minutes, removing continuously the toluene and the water as they are formed by destillation. The residue is dried under vacuo to yield 32.7 g (90.0% of theory) of N-(2'-aminoethyl)-3,4-dihydronaphthalene-1,2-dicarboximide in the form of its toluene-p-sulphonic acid salt. This salt may be purified by recrystallisation from toluene.

reactant | toluene-p-sulphonic acid monohydrate | 27.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,4-dihydronaphthalene-1,2-dicarboxylic acid anhydride | 0.138 mol, 27.62 g | C12=C(CCC3=CC=CC=C13)C(=O)OC2=O | C12H8O3
reactant | ethylenediamine | 8.69 g | C(CN)N | C2H8N2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2'-aminoethyl)-3,4-dihydronaphthalene-1,2-dicarboximide | 32.7 g, 90.0% | NCCN1C(=O)C2=C(CCC3=CC=CC=C23)C1=O | C14H14N2O2
